US20010041170A1
1.3.11.11 N,N′,N″-Tris(2-hydroxybenzyl)-1,4,7-triazacyclononane
From 1,4,7-triazacyclononane, salicylaldehyde and H2/PtO2.

reactant | 1,4,7-triazacyclononane | N1CCNCCNCC1 | C6H15N3
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
catalyst | H2 PtO2 | [H][H].O=[Pt]=O
product | N,N′,N″-Tris(2-hydroxybenzyl)-1,4,7-triazacyclononane | OC1=C(CN2CCN(CCN(CC2)CC2=C(C=CC=C2)O)CC2=C(C=CC=C2)O)C=CC=C1 | C27H33N3O3
